US07094798B1
4-(2-Chlorophenyl)-6-(2-hydroxyethyl)-9-methoxy-4,5,6,10c-tetrahydropyrrolo[3,4-c]carbazole-1,3(2H, 3aH)-dione (IV; Ar=2-chlorophenyl, R10═CH2CH2OH) (45) prepared according to example 42 was reacted with MnO2 using the procedure described in example 79 except that the reaction time was 18 h gave 4-(2-Chlorophenyl)-6-(2-hydroxyethyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione (V; Ar=2-chlorophenyl, R10═CH2CH2OH) (46) in a 72% yield as a yellow powder, mp 255–257° C. 1H NMR δ [(CD3)2SO] 11.10 (br s, 1H), 8.52 (d, J=2.6 Hz, 1H), 7.80 (s, 1H), 7.71 (d, J=9.0 Hz, 1H), 7.59–7.56 (m, 1H), 7.52–7.43 (m, 4H), 7.29 (dd, J=9.0, 2.2.6 Hz, 1H), 4.84 (t, J=5.0 Hz, 1H), 4.53 (t, J=5.2 Hz, 2H), 3.90 (s, 3H), 3.77 (m, 2H). Found: C, 65.50; H, 4.07; N, 6.59. C23H17ClN2O4 requires C, 65.64; H, 4.07; N, 6.66.

reactant | 4-(2-Chlorophenyl)-6-(2-hydroxyethyl)-9-methoxy-4,5,6,10c-tetrahydropyrrolo[3,4-c]carbazole-1,3(2H, 3aH)-dione | ClC1=C(C=CC=C1)C1CC=2N(C=3C=CC(=CC3C2C2C1C(NC2=O)=O)OC)CCO | C23H21ClN2O4
catalyst | MnO2 | O=[Mn]=O
product | 4-(2-Chlorophenyl)-6-(2-hydroxyethyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione | 72% yield | ClC1=C(C=CC=C1)C1=CC=2N(C=3C=CC(=CC3C2C2=C1C(NC2=O)=O)OC)CCO | C23H17ClN2O4
